US03985740
7-Amino-3-(2-thiazolyl)carbonylthiomethyl-3-cephem 4-carboxylic acid
to a stirred solution of 9.8 g. (0.036 moles) of 7-aminocephalosporanic acid and 6.05 g. (0.072 moles) of sodium bicarbonate in 170 ml. of aqueous phosphate buffer at pH 6.4 was added 5.35 g. (0.036 moles) of thiazole-2-thiocarboxylic acid. The mixture was stirred in a nitrogen atmosphere at 50° for 5 hours keeping the pH at 6.6 with 42% phosphoric acid. Then the mixture was cooled to 20° and the precipitated solid was removed by filtration, washed with water, acetone and ether and dried in vacuo over phosphorus pentoxide to provide 4.6 g. (35% yield) of a tan crystalline solid. Infrared and NMR spectra were consistent with the structure.

reactant | 7-aminocephalosporanic acid | 0.036 moles | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | sodium bicarbonate | 0.072 moles | C([O-])(O)=O.[Na+]
reactant | phosphate | P(=O)([O-])([O-])[O-]
reactant | thiazole-2-thiocarboxylic acid | 0.036 moles | S1C(=NC=C1)C(O)=S | C4H3NOS2
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
product | 7-Amino-3-(2-thiazolyl)carbonylthiomethyl-3-cephem 4-carboxylic acid | 35% yield | NC1[C@@H]2N(C(=C(CS2)CSC(=O)C=2SC=CN2)C(=O)O)C1=O | C12H11N3O4S3
